US05239083
4-{2-[3-[1-(3-methy-2-butenyl)indol-5-yl]isocrotonoyl amino]phenoxy}butyric acid (Compound 12)
137 mg of compound 12 was obtained in a similar manner to those described in the Examples 1 and 2 using 332 mg of ethyl 4-(2-aminophenoxy)butyrate and 200 mg of 3-[1-(3-methyl-2-butenyl)indol-5-yl]isocrotonic acid obtained according to the procedures described in the Reference Examples 1-4.

reactant | ethyl 4-(2-aminophenoxy)butyrate | 332 mg | NC1=C(OCCCC(=O)OCC)C=CC=C1 | C12H17NO3
reactant | 3-[1-(3-methyl-2-butenyl)indol-5-yl]isocrotonic acid | 200 mg | CC(=CCN1C=CC2=CC(=CC=C12)/C(=C/C(=O)O)/C)C | C17H19NO2
product | 4-{2-[3-[1-(3-methy-2-butenyl)indol-5-yl]isocrotonoyl amino]phenoxy}butyric acid | CC(=CCN1C=CC2=CC(=CC=C12)/C(=C/C(=O)NC1=C(OCCCC(=O)O)C=CC=C1)/C)C | C27H30N2O4
